US06716863B2
(i) 4-[4-[2-(E)-[2-(2,4-difluorophenyl)ethenyl]-1,3-oxazol-4-yl]methoxyphenyl]-1-butanol
To a solution of 4-(4-hydroxyphenyl)-1-butanol (1.99 g) in DMF (20 ml), 60% oily sodium hydride (528 mg) was added under ice cooling, followed by stirring at room temperature for 30 minutes. Under ice cooling, (E)-4-chloromethyl-2-[2-(2,4-difluorophenyl)ethenyl]oxazole (3.37 g) was added, followed by stirring overnight at room temperature. After water and 1 N hydrochloric acid was added, the reaction mixture was extracted with ethyl acetate. After the extract was dried over magnesium sulfate, it was concentrated under reduced pressure; the residue was recrystallized from ethyl acetate-diethyl ether-hexane to yield the titled compound (3.71 g) as colorless crystals.

reactant | 4-(4-hydroxyphenyl)-1-butanol | 1.99 g | OC1=CC=C(C=C1)CCCCO | C10H14O2
reactant | sodium hydride | 528 mg | [H-].[Na+]
reactant | (E)-4-chloromethyl-2-[2-(2,4-difluorophenyl)ethenyl]oxazole | 3.37 g | ClCC=1N=C(OC1)\C=C\C1=C(C=C(C=C1)F)F | C12H8ClF2NO
reactant | hydrochloric acid | 1 N | Cl | ClH
solvent | DMF | 20 ml | CN(C)C=O | C3H7NO
solvent | water | O | H2O
product | 4-[4-[2-(E)-[2-(2,4-difluorophenyl)ethenyl]-1,3-oxazol-4-yl]methoxyphenyl]-1-butanol | 3.71 g | FC1=C(C=CC(=C1)F)/C=C/C=1OC=C(N1)COC1=CC=C(C=C1)CCCCO | C22H21F2NO3
